US05686424
L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] 1-(R)-(1-naphthyl)ethylamide Hydrochloride
Following the procedure described in Example 120, the coupling of N-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl]-L-proline hydrochloride (250 mg, 0.69 mmol) and (R)-1-(1-naphthyl)ethylamine (0.34 mL, 2.1 mmol) provided, after treatment with HCl in Et2O, 137 mg of the hydrochloride salt of L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] (R)-1-(1-naphthyl)ethylamide as a powder.

reactant | HCl | Cl | ClH
reactant | L-proline, 1-[2-(3,4,5-trimethoxyphenyl)-2-oxoethyl] (R)-1-(1-naphthyl)ethylamide | COC=1C=C(C=C(C1OC)OC)C(C[C@](C)(C1=CC=CC2=CC=CC=C12)NC([C@H]1NCCC1)=O)=O | C28H32N2O5
solvent | Et2O | CCOCC | C4H10O
product | L-Proline, 1-[2-(3,4,5-Trimethoxyphenyl)-2-Oxoethyl] 1-(R)-(1-naphthyl)ethylamide Hydrochloride | Cl.COC=1C=C(C=C(C1OC)OC)C(C[C@](C)(C1=CC=CC2=CC=CC=C12)NC([C@H]1NCCC1)=O)=O | InChI=1S/C28H32N2O5.ClH/c1-28(30-27(32)22-13-8-14-29-22,21-12-7-10-18-9-5-6-11-20(18)21)17-23(31)19-15-24(33-2)26(35-4)25(16-19)34-3;/h5-7,9-12,15-16,22,29H,8,13-14,17H2,1-4H3,(H,30,32);1H/t22-,28+;/m0./s1
